US08461161B2
A mixture of 3-[(1S)-1-aminoethyl]aniline (7.5 g, 55 mmol), 2,6-dichloropyrazine (12.3 g, 82.5 mmol) and potassium carbonate (15.2 g, 110 mmol) in dioxane (140 mL) was heated at reflux for 3 days. After this time the mixture was cooled to room temperature, filtered and concentrated under reduced pressure to give an orange oil which was purified by flash chromatography (silica, ethyl acetate/hexanes) to give N-[(1S)-1-(3-aminophenyl)ethyl]-6-chloropyrazin-2-amine (11.6 g, 85%) as a beige solid.

reactant | 3-[(1S)-1-aminoethyl]aniline | 55 mmol, 7.5 g | N[C@@H](C)C=1C=C(N)C=CC1 | C8H12N2
reactant | 2,6-dichloropyrazine | 82.5 mmol, 12.3 g | ClC1=NC(=CN=C1)Cl | C4H2Cl2N2
reactant | potassium carbonate | 110 mmol, 15.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dioxane | 140 mL | O1CCOCC1 | C4H8O2
product | N-[(1S)-1-(3-aminophenyl)ethyl]-6-chloropyrazin-2-amine | 11.6 g, 85% | NC=1C=C(C=CC1)[C@H](C)NC1=NC(=CN=C1)Cl | C12H13ClN4
